US04180583
4-[4-(Diphenylmethylene)piperidino]-4'-fluorobutyrophenone hydrochloride
A mixture of 17.7 g (0.038 mole) of 4'-fluoro-4-[4-(α-hydroxy-α-phenylbenzyl)piperidino]butyrophenone hydrochloride, 200 ml of 37% HCl, and 200 ml of isopropyl alcohol was heated on a steam bath for 4 hours. The solvent and excess acid were removed at reduced pressure. The remaining residue was treated with benzene and ethanol and heated to remove excess acid. The excess benzene and ethanol were removed, and the residue was dissolved in hot butanone to which ether was added. Upon cooling a solid formed which was recrystallized from ethyl acetate to give the desired product M.P. 190°-191° C.

reactant | 4'-fluoro-4-[4-(α-hydroxy-α-phenylbenzyl)piperidino]butyrophenone hydrochloride | 0.038 mole, 17.7 g | Cl.FC1=CC=C(C=C1)C(CCCN1CCC(CC1)C(C1=CC=CC=C1)(C1=CC=CC=C1)O)=O
reactant | HCl | 200 ml | Cl | ClH
solvent | isopropyl alcohol | 200 ml | C(C)(C)O | C3H8O
product | 4-[4-(Diphenylmethylene)piperidino]-4'-fluorobutyrophenone hydrochloride | Cl.C1(=CC=CC=C1)C(=C1CCN(CC1)CCCC(=O)C1=CC=C(C=C1)F)C1=CC=CC=C1 | InChI=1S/C28H28FNO.ClH/c29-26-15-13-22(14-16-26)27(31)12-7-19-30-20-17-25(18-21-30)28(23-8-3-1-4-9-23)24-10-5-2-6-11-24;/h1-6,8-11,13-16H,7,12,17-21H2;1H
